US08470857B2
Step 7: Preparation of 4-(2-((1H-tetrazol-5-yl)methyl)-5-(4-bromophenyl)-1H-pyrrol-1-yl)-3-methylbenzamide (5H, R2=4-bromophenyl).
Representative procedure for Scheme 7: Synthesis of 4-(2-((1H-tetrazol-5-yl)methyl)-5-(4-(2-methyl-1H-imidazol-1-yl)phenyl)-1H-pyrrol-1-yl)phenol. To a mixture of 4-(2-((1H-tetrazol-5-yl)methyl)-5-(4-bromophenyl)-1H-pyrrol-1-yl)phenol (1.0 g, 2.52 mmol) and 2-methyl-1H-imidazole (2.07 g, 25.2 mmol) in DMSO (10.0 mL) was added 8-HQ (54 mg, 0.38 mmol), Cu2O (0.29 g, 2.52 mmol), Cs2CO3 (0.986 g, 3.03 mmol) and PEG-2000 (0.29 g). The resultant mixture was heated at 150° C. for 3 h under microwave irradiation. The mixture was treated with EA (60 mL), the resultant precipitate was filtered and purified by Biotage-flash (Solid phase: C18; Mobile phase: A: CH3CN, B: H2O (0.05% CF3COOH); gradient: 12%→24% B in A; flow rate: 40 mL/min) to afford an off white solid (143 mg, yield 14%)

reactant | 4-(2-((1H-tetrazol-5-yl)methyl)-5-(4-(2-methyl-1H-imidazol-1-yl)phenyl)-1H-pyrrol-1-yl)phenol | N1N=NN=C1CC=1N(C(=CC1)C1=CC=C(C=C1)N1C(=NC=C1)C)C1=CC=C(C=C1)O | C22H19N7O
reactant | 4-(2-((1H-tetrazol-5-yl)methyl)-5-(4-bromophenyl)-1H-pyrrol-1-yl)phenol | 2.52 mmol, 1.0 g | N1N=NN=C1CC=1N(C(=CC1)C1=CC=C(C=C1)Br)C1=CC=C(C=C1)O | C18H14BrN5O
reactant | 2-methyl-1H-imidazole | 25.2 mmol, 2.07 g | CC=1NC=CN1 | C4H6N2
reactant | Cs2CO3 | 3.03 mmol, 0.986 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | EA | 60 mL | CC(OCC)=O | C4H8O2
solvent | DMSO | 10.0 mL | CS(=O)C | C2H6OS
product | 4-(2-((1H-tetrazol-5-yl)methyl)-5-(4-bromophenyl)-1H-pyrrol-1-yl)-3-methylbenzamide | 143 mg, yield 14% | N1N=NN=C1CC=1N(C(=CC1)C1=CC=C(C=C1)Br)C1=C(C=C(C(=O)N)C=C1)C | C20H17BrN6O
